US08420647B2
b) 4-(4-Bromo-2,5-dichloro-phenoxy)-6-methyl-nicotinic acid methyl ester
To a solution of 1.25 g (6.734 mmol) 4-chloro-6-methyl-nicotinic acid methyl ester (commercially available, CAS RN 886372-05-0) in 30 mL o-xylene was added 1.792 g (7.408 mmol) 4-bromo-2,5-dichlorophenol (commercially available, CAS RN 1940-42-7), 0.502 g (1.347 mmol) tetrakis(acetonitrile)copper (I) hexafluorophosphate (commercially available, CAS RN 64443-05-6) and 5.536 g (16.836 mmol) cesium carbonate. The reaction mixture was stirred at 120° C. for 20 hours and was then allowed to cool to room temperature. Ethyl acetate (50 mL) and water (50 mL) was added and stirring was continued for another 10 minutes. The reaction mixture was filtered over Dicalite® speed plus (Acros) and the layers were separated. The aqueous layer was extracted with 200 mL ethyl acetate and the combined organic layers were washed with 200 mL brine, dried over magnesium sulfate, filtered and concentrated under vacuum. The residue was purified by silica gel chromatography using a MPLC system (50 g silica gel column, CombiFlash Companion, Isco Inc.) and a gradient of n-heptane:ethyl acetate (100:0 to 40:60) to give 200 mg (8%) of the title compound as a light yellow solid. MS (Turbo Spray): m/z=391.9 [M+H]+.

reactant | 4-chloro-6-methyl-nicotinic acid methyl ester | 6.734 mmol, 1.25 g | COC(C1=CN=C(C=C1Cl)C)=O | C8H8ClNO2
reactant | 4-bromo-2,5-dichlorophenol | 7.408 mmol, 1.792 g | BrC1=CC(=C(C=C1Cl)O)Cl | C6H3BrCl2O
reactant | cesium carbonate | 16.836 mmol, 5.536 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | o-xylene | 30 mL | CC=1C=CC=CC1C | C8H10
solvent | water | 50 mL | O | H2O
product | 4-(4-Bromo-2,5-dichloro-phenoxy)-6-methyl-nicotinic acid methyl ester | 200 mg, 8% | COC(C1=CN=C(C=C1OC1=C(C=C(C(=C1)Cl)Br)Cl)C)=O | C14H10BrCl2NO3
